US07951828B1
Step 2: Production of 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-(dimethyl-aminomethyl)benzoic acid
In a solution of 1.35 g of methyl 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-(dimethyl-aminomethyl)benzoate in 30 mL of ethanol, a solution of 0.48 g of potassium hydroxide in 15 mL of water was added, and stirred under reflux with heating for 30 minutes. After the completion of the reaction, the reaction mixture was left and cooled to room temperature, and 10 mL of 2N hydrochloric acid was added, and the solvent was distilled off under reduced pressure. The residue was dissolved in 20 mL of ethyl acetate, insoluble material was filtered off, and the solvent was distilled off under reduced pressure to obtain 1.05 g of the crude aimed product as white crystal. The resulting product was used as such without purification for the next step.

reactant | methyl 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-(dimethyl-aminomethyl)benzoate | 1.35 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)OC)C=C1)C(N)(C)C)C(F)(F)F | C21H19Cl2F3N2O3
reactant | potassium hydroxide | 0.48 g | [OH-].[K+]
reactant | hydrochloric acid | 2N, 10 mL | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-(dimethyl-aminomethyl)benzoic acid | 1.05 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C(N)(C)C)C(F)(F)F | C20H17Cl2F3N2O3
